US04603135
A mixture of m-nitrobenzaldehyde (0.66 g), 2-(4-phenylpiperidino)ethyl acetoacetate (1.2 g), piperidine (0.1 ml) and benzene (20 ml) was refluxed overnight, during which time the water produced was removed azeotropically. The solvent was then distilled off and the residue was chromatographed on silica gel (50 g) [ethyl acetate-hexane (1:1, v/v)] to give 2-(4-phenylpiperidino)-ethyl 2-(3-nitrobenzylidene)acetoacetate as an oil. Yield 0.80 g (45.7%).

reactant | m-nitrobenzaldehyde | 0.66 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-(4-phenylpiperidino)ethyl acetoacetate | 1.2 g | C(CC(=O)C)(=O)OCCN1CCC(CC1)C1=CC=CC=C1 | C17H23NO3
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-(4-phenylpiperidino)-ethyl 2-(3-nitrobenzylidene)acetoacetate | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCN2CCC(CC2)C2=CC=CC=C2)C(=O)C)C=CC1 | C24H26N2O5
